US06602831B2
Adduct of TAIT Mixture Prepared from Acetone/Methyl Isobutyl Ketone/Methyl Ethyl Ketone/Cyclohexanone and EHA
A procedure similar to that of Example 2 was used for the reaction with 2-EHA. Starting from the TAIT product described in the preceding paragraph (1.0 g, ca. 4.5 mmol), 2-ethylhexyl acrylate (0.82 g, 4.5 mmol) and cesium carbonate (0.75 g, 2.25 mmol) in acetonitrile (20 mL), the product was isolated as a yellow oil and solid mixture (1.8 g, 99 %). IR: 3325, 2933, 2860, 1732, 1480 cm−1.

reactant | 2-EHA | CCCCC(CC)C(=O)O | C8H16O2
reactant | 2-ethylhexyl acrylate | 4.5 mmol, 0.82 g | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | cesium carbonate | 2.25 mmol, 0.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Acetone Methyl Isobutyl Ketone Methyl Ethyl Ketone Cyclohexanone | 1.8 g, 99 % | CC(=O)C.C(C(C)C)C(=O)C.C(C)C(=O)C.C1(CCCCC1)=O | InChI=1S/C6H10O.C6H12O.C4H8O.C3H6O/c7-6-4-2-1-3-5-6;1-5(2)4-6(3)7;1-3-4(2)5;1-3(2)4/h1-5H2;5H,4H2,1-3H3;3H2,1-2H3;1-2H3
